US07148226B2
(5-Amino-1H-1,2,4-triazol-3-yl)methanol glycolate
The title compound was prepared by a slight modification of a reported procedure (Allen, C. F. H. J. Org. Chem, 1959, 24, 793): A 5-L 3-necked flask was charged with aminoguanidine bicarbonate (275.6 g, 2.025 mol) and octyl alcohol (5.5 mL, to control foaming). To the mixture was added 70% aqueous glycolic acid (440 g, 4.05 mol, 2 equiv) gradually, during which time evolution of CO2 was observed. When foaming and gas evolution had ceased, concentrated nitric acid (2.2 mL) was added so that it wet the sides of the flask above the liquid. The reaction mixture was refluxed for 40 h, then cooled to 5° C. and maintained at this temperature for 40 min. The resulting slurry was filtered, and the solid washed with EtOH and dried in vacuo at 30° C. to give the crude product as a white solid (313 g). The mother liquor was stirred at 0° C. (ice bath) for 1 h and filtered, affording a second batch of material (51 g). These two batches were combined and recrystallized from hot EtOH, affording 271.5 g, (70.5%).

reactant | aminoguanidine bicarbonate | 2.025 mol, 275.6 g | C(O)(O)=O.NNC(=N)N
reactant | glycolic acid | 4.05 mol, 440 g, 2 equiv | C(CO)(=O)O | C2H4O3
reactant | CO2 | C(=O)=O | CO2
reactant | nitric acid | 2.2 mL | [N+](=O)(O)[O-] | HNO3
solvent | octyl alcohol | 5.5 mL | C(CCCCCCC)O | C8H18O
product | (5-Amino-1H-1,2,4-triazol-3-yl)methanol glycolate | C(CO)(=O)OCC1=NNC(=N1)N | C5H8N4O3
